US08110579B2
According to the saponification/peptide coupling steps described in examples 1.7 and 1.8 respectively, starting from 1.8 g (3.62 mmol) of methyl 3,5-dichloro-2′-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-2,3′-bipyridine-6′-carboxylate and 472 mg (3.3 mmol) of 2-aminocyclohexane-2-carboxylic acid, we obtain 1.12 g of 1-{[(3,5-dichloro-2′-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-2,3′-bipyridin-6′-yl)carbonyl]amino}cyclohexanecarboxylic acid hydrochloride in the form of white powder.

reactant | methyl 3,5-dichloro-2′-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-2,3′-bipyridine-6′-carboxylate | 3.62 mmol, 1.8 g | ClC=1C(=NC=C(C1)Cl)C=1C(=NC(=CC1)C(=O)OC)C1=CC(=C(C=C1)Cl)OCCCN(C)C | C23H22Cl3N3O3
reactant | 2-aminocyclohexane-2-carboxylic acid | 3.3 mmol, 472 mg | NC1(CCCCC1)C(=O)O | C7H13NO2
product | 1-{[(3,5-dichloro-2′-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-2,3′-bipyridin-6′-yl)carbonyl]amino}cyclohexanecarboxylic acid hydrochloride | 1.12 g, Yield=50% | Cl.ClC=1C(=NC=C(C1)Cl)C=1C(=NC(=CC1)C(=O)NC1(CCCCC1)C(=O)O)C1=CC(=C(C=C1)Cl)OCCCN(C)C | InChI=1S/C29H31Cl3N4O4.ClH/c1-36(2)13-6-14-40-24-15-18(7-9-21(24)31)25-20(26-22(32)16-19(30)17-33-26)8-10-23(34-25)27(37)35-29(28(38)39)11-4-3-5-12-29;/h7-10,15-17H,3-6,11-14H2,1-2H3,(H,35,37)(H,38,39);1H
